US04564612
In 100 ml of ethanol is dissolved 4.5 g of sodium, and 30 g of ethyl 3-cyclohexylpropionate and 29 g of diethyl oxalate are added to the solution, followed by heating about 70° C. for 30 minutes. The low-boiling substance is removed by evaporation under reduced pressure at 70° C. for 30 minutes. After cooling, 500 ml of water, 200 ml of ether and 100 ml of petroleum ether are added to the brown viscous residue, and the mixture is thoroughly shaken. The aqueous layer is separated, acidified slightly with sulfuric acid and extracted with 200 ml of ethyl acetate. The extract is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. One hundred and ten ml of 10% aqueous dimethylsulfoxide and 10 g of sodium chloride are added to the oily residue, and the mixture is stirred at 140° C. for 2.5 hours. After the reaction mixture is cooled, 1 l of water is added, followed by extraction with 500 ml of ethyl acetate. The extract is washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The brown oily residue is distilled under reduced pressure to give 18 g of ethyl 4-cyclohexyl-2-oxo-butyrate as a pale yellow liquid.

reactant | sodium | 4.5 g | [Na] | Na
reactant | ethyl 3-cyclohexylpropionate | 30 g | C1(CCCCC1)CCC(=O)OCC | C11H20O2
reactant | diethyl oxalate | 29 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-cyclohexyl-2-oxo-butyrate | 18 g | C1(CCCCC1)CCC(C(=O)OCC)=O | C12H20O3
